US07449475B2
4-(Acetylamino)-3-{[(2S)-2-methyloxiran-2-yl]methoxy}phenyl benzoate
This compound was prepared from 4-(acetylamino)-3-hydroxyphenyl benzoate (2.71 g, 10 mmol) and [(2S)-2-methyloxiran-2-yl]methyl 3-nitrobenzenesulfonate using the standard procedure and 1-methylpyrrolidin-2-one as a solvent. Flash chromatography on silica gel (ethyl acetate/n-heptane) afforded the subtitled compound as a colourless solid (1.31 g, 3.9 mmol, 39%).

reactant | 4-(acetylamino)-3-hydroxyphenyl benzoate | 10 mmol, 2.71 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)NC(C)=O)O | C15H13NO4
reactant | [(2S)-2-methyloxiran-2-yl]methyl 3-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@]1(OC1)C | C10H11NO6S
solvent | 1-methylpyrrolidin-2-one | CN1C(CCC1)=O | C5H9NO
product | 4-(Acetylamino)-3-{[(2S)-2-methyloxiran-2-yl]methoxy}phenyl benzoate | 3.9 mmol, 1.31 g, 39% | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)NC(C)=O)OC[C@]1(OC1)C | C19H19NO5
